US06239131B1
Preparation of 1-[1-(2-toluoylmethyl)-2-oxo-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-[3-(N,N-dimethylamino)phenyl]urea
1,1′-Carbonyldiimidazole (244 mg) was added to a solution of 1-(2-toluoylmethyl)-2-oxo-3-amino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (393 mg) in anhydrous tetrahydrofuran (5 ml), stirred for 30 minutes at room temperature,N,N-dimethyl-m-phenylenediamine dihydrochloride (335 mg) and triethylamine (0.67 ml) was added, and the mixture was refluxed overnight. The reaction mixture was concentrated under reduced pressure, appeared insoluble material was removed and purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1). Etanol was added to the residue for crystallization and filtrated, to thereby obtain 224 mg of the title compound (Yield: 40.3%) as white solid.

reactant | 1,1′-Carbonyldiimidazole | 244 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-(2-toluoylmethyl)-2-oxo-3-amino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 393 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C(C(C)(C)C)=O)N)=O)C | C23H27N3O3
reactant | triethylamine | 0.67 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[1-(2-toluoylmethyl)-2-oxo-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-[3-(N,N-dimethylamino)phenyl]urea | 224 mg, Yield: 40.3% | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C(C(C)(C)C)=O)NC(=O)NC2=CC(=CC=C2)N(C)C)=O)C | C32H37N5O4
